US07667041B2
Potassium carbonate (2.07 g) was added to a DMF (20 mL) solution of 5-bromo-2-fluorobenzonitrile (2.00 g) and 4-methylimidazole (1.23 g) and the reaction solution was agitated at 100° C. for 4.5 hours. The reaction mixture was concentrated under reduced pressure, water and ethyl acetate were added to the residue, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), and 5-bromo-2-(4-methyl-1H-imidazol-1-yl)benzonitrile (962 mg) and 5-bromo-2-(5-methyl-1H-imidazol-1-yl)benzonitrile (60 mg) were obtained.

reactant | Potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2-fluorobenzonitrile | 2.00 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 4-methylimidazole | 1.23 g | CC=1N=CNC1 | C4H6N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-bromo-2-(5-methyl-1H-imidazol-1-yl)benzonitrile | 60 mg | BrC=1C=CC(=C(C#N)C1)N1C=NC=C1C | C11H8BrN3
